**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Power Inductor
* Matchcode:              WE-PD2
* Library Type:           LTspice
* Version:                rev26a
* Created/modified by:    Ella
* Date and Time:          9/18/2026
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1054_744776012_1.2u 1 2
Rp 1 2 3314
Cp 1 2 1.702p
Rs 1 N3 0.007
L1 N3 2 1.063u
.ends 1054_744776012_1.2u
*******
.subckt 1054_744776025_2.5u 1 2
Rp 1 2 6042
Cp 1 2 2.565p
Rs 1 N3 0.01
L1 N3 2 2.173u
.ends 1054_744776025_2.5u
*******
.subckt 1054_744776033_3.3u 1 2
Rp 1 2 6155
Cp 1 2 3.774p
Rs 1 N3 0.0115
L1 N3 2 2.868u
.ends 1054_744776033_3.3u
*******
.subckt 1054_744776047_4.7u 1 2
Rp 1 2 9942
Cp 1 2 3.488p
Rs 1 N3 0.012
L1 N3 2 4.424u
.ends 1054_744776047_4.7u
*******
.subckt 1054_744776056_5.6u 1 2
Rp 1 2 11431
Cp 1 2 3.584p
Rs 1 N3 0.015
L1 N3 2 5.217u
.ends 1054_744776056_5.6u
*******
.subckt 1054_744776068_6.8u 1 2
Rp 1 2 13906
Cp 1 2 3.43p
Rs 1 N3 0.016
L1 N3 2 6.126u
.ends 1054_744776068_6.8u
*******
.subckt 1054_744776082_8.2u 1 2
Rp 1 2 17803
Cp 1 2 3.179p
Rs 1 N3 0.02
L1 N3 2 8.023u
.ends 1054_744776082_8.2u
*******
.subckt 1054_74477610_10u 1 2
Rp 1 2 14884
Cp 1 2 3.80848p
Rs 1 N3 0.0275
L1 N3 2 9.7608u
.ends 1054_74477610_10u
*******
.subckt 1054_744776112_12u 1 2
Rp 1 2 15620.7
Cp 1 2 4.34989p
Rs 1 N3 0.0326
L1 N3 2 10.9215u
.ends 1054_744776112_12u
*******
.subckt 1054_744776115_15u 1 2
Rp 1 2 18211.1
Cp 1 2 4.6922p
Rs 1 N3 0.034
L1 N3 2 13.3912u
.ends 1054_744776115_15u
*******
.subckt 1054_744776118_18u 1 2
Rp 1 2 18730.3
Cp 1 2 4.29914p
Rs 1 N3 0.0428
L1 N3 2 14.6155u
.ends 1054_744776118_18u
*******
.subckt 1054_744776122_22u 1 2
Rp 1 2 22161.1
Cp 1 2 4.70527p
Rs 1 N3 0.0511
L1 N3 2 19.4591u
.ends 1054_744776122_22u
*******
.subckt 1054_744776127_27u 1 2
Rp 1 2 22640.2
Cp 1 2 4.31679p
Rs 1 N3 0.0627
L1 N3 2 24.2742u
.ends 1054_744776127_27u
*******
.subckt 1054_744776133_33u 1 2
Rp 1 2 47462.5
Cp 1 2 4.74174p
Rs 1 N3 0.0826
L1 N3 2 31.7523u
.ends 1054_744776133_33u
*******
.subckt 1054_744776139_39u 1 2
Rp 1 2 31561.7
Cp 1 2 4.29877p
Rs 1 N3 0.0983
L1 N3 2 39.9976u
.ends 1054_744776139_39u
*******
.subckt 1054_744776147_47u 1 2
Rp 1 2 49686
Cp 1 2 4.365p
Rs 1 N3 0.0951
L1 N3 2 41.847u
.ends 1054_744776147_47u
*******
.subckt 1054_744776156_56u 1 2
Rp 1 2 53595
Cp 1 2 4.52077p
Rs 1 N3 0.112
L1 N3 2 51.6273u
.ends 1054_744776156_56u
*******
.subckt 1054_744776168_68u 1 2
Rp 1 2 42956.2
Cp 1 2 5.14685p
Rs 1 N3 0.138
L1 N3 2 66.0789u
.ends 1054_744776168_68u
*******
.subckt 1054_744776182_82u 1 2
Rp 1 2 60289.5
Cp 1 2 4.81442p
Rs 1 N3 0.15
L1 N3 2 80.8459u
.ends 1054_744776182_82u
*******
.subckt 1054_74477620_100u 1 2
Rp 1 2 95551.8
Cp 1 2 4.64402p
Rs 1 N3 0.2
L1 N3 2 96.8606u
.ends 1054_74477620_100u
*******
.subckt 1054_744776212_120u 1 2
Rp 1 2 78000.1
Cp 1 2 4.77216p
Rs 1 N3 0.243
L1 N3 2 121.044u
.ends 1054_744776212_120u
*******
.subckt 1054_744776215_150u 1 2
Rp 1 2 110571
Cp 1 2 4.72993p
Rs 1 N3 0.3
L1 N3 2 144.718u
.ends 1054_744776215_150u
*******
.subckt 1054_744776218_180u 1 2
Rp 1 2 151884
Cp 1 2 5.07804p
Rs 1 N3 0.32
L1 N3 2 170.724u
.ends 1054_744776218_180u
*******
.subckt 1054_744776222_220u 1 2
Rp 1 2 94746.2
Cp 1 2 4.59334p
Rs 1 N3 0.4511
L1 N3 2 215.204u
.ends 1054_744776222_220u
*******
.subckt 1054_744776227_270u 1 2
Rp 1 2 94819.6
Cp 1 2 5.48102p
Rs 1 N3 0.5
L1 N3 2 263.777u
.ends 1054_744776227_270u
*******
.subckt 1054_744776233_330u 1 2
Rp 1 2 130320
Cp 1 2 4.50196p
Rs 1 N3 0.75
L1 N3 2 306.199u
.ends 1054_744776233_330u
*******
.subckt 1054_744776239_390u 1 2
Rp 1 2 123744
Cp 1 2 4.36164p
Rs 1 N3 0.794
L1 N3 2 383.079u
.ends 1054_744776239_390u
*******
.subckt 1054_744776247_470u 1 2
Rp 1 2 169028
Cp 1 2 4.64566p
Rs 1 N3 0.969
L1 N3 2 461.859u
.ends 1054_744776247_470u
*******
.subckt 1054_744776260_600u 1 2
Rp 1 2 133660
Cp 1 2 4.531p
Rs 1 N3 1.17
L1 N3 2 528.5u
.ends 1054_744776260_600u
*******
.subckt 1054_744776256_560u 1 2
Rp 1 2 85764
Cp 1 2 5.15282p
Rs 1 N3 1.047
L1 N3 2 548.829u
.ends 1054_744776256_560u
*******
.subckt 1054_744776268_680u 1 2
Rp 1 2 65430.6
Cp 1 2 5.4244p
Rs 1 N3 1.245
L1 N3 2 640.323u
.ends 1054_744776268_680u
*******
.subckt 1054_744776282_820u 1 2
Rp 1 2 53610.3
Cp 1 2 5.18765p
Rs 1 N3 1.42
L1 N3 2 766.2u
.ends 1054_744776282_820u
*******
.subckt 1054_74477630_1000u 1 2
Rp 1 2 226969
Cp 1 2 5.451p
Rs 1 N3 2.2
L1 N3 2 913.96u
.ends 1054_74477630_1000u
*******
.subckt 1054_744776312_1200u 1 2
Rp 1 2 252395
Cp 1 2 5.001p
Rs 1 N3 2.48
L1 N3 2 1102u
.ends 1054_744776312_1200u
*******
.subckt 1054_744776315_1500u 1 2
Rp 1 2 253470
Cp 1 2 5.4p
Rs 1 N3 3.1
L1 N3 2 1570u
.ends 1054_744776315_1500u
*******
.subckt 1054_744776322_2200u 1 2
Rp 1 2 299060
Cp 1 2 6.123p
Rs 1 N3 4.4
L1 N3 2 2012u
.ends 1054_744776322_2200u
*******
.subckt 3521_7447732010_1u 1 2
Rp 1 2 4210.12
Cp 1 2 1.02815p
Rs 1 N3 0.039
L1 N3 2 0.872212u
.ends 3521_7447732010_1u
*******
.subckt 3521_7447732015_1.5u 1 2
Rp 1 2 5818.3
Cp 1 2 0.991632p
Rs 1 N3 0.054
L1 N3 2 1.53697u
.ends 3521_7447732015_1.5u
*******
.subckt 3521_7447732022_2.2u 1 2
Rp 1 2 7691.01
Cp 1 2 1.04644p
Rs 1 N3 0.07
L1 N3 2 2.22701u
.ends 3521_7447732022_2.2u
*******
.subckt 3521_7447732033_3.3u 1 2
Rp 1 2 10335.8
Cp 1 2 1.10862p
Rs 1 N3 0.091
L1 N3 2 3.40386u
.ends 3521_7447732033_3.3u
*******
.subckt 3521_7447732047_4.7u 1 2
Rp 1 2 12936.3
Cp 1 2 1.06681p
Rs 1 N3 0.125
L1 N3 2 4.36765u
.ends 3521_7447732047_4.7u
*******
.subckt 3521_7447732068_6.8u 1 2
Rp 1 2 14551.5
Cp 1 2 1.3266p
Rs 1 N3 0.17
L1 N3 2 6.76934u
.ends 3521_7447732068_6.8u
*******
.subckt 3521_7447732110_10u 1 2
Rp 1 2 20422.9
Cp 1 2 1.17581p
Rs 1 N3 0.237
L1 N3 2 9.55875u
.ends 3521_7447732110_10u
*******
.subckt 3521_7447732115_15u 1 2
Rp 1 2 23741.4
Cp 1 2 1.1457p
Rs 1 N3 0.347
L1 N3 2 14.5617u
.ends 3521_7447732115_15u
*******
.subckt 3521_7447732122_22u 1 2
Rp 1 2 29511.6
Cp 1 2 1.60435p
Rs 1 N3 0.561
L1 N3 2 22.4228u
.ends 3521_7447732122_22u
*******
.subckt 3521_7447732133_33u 1 2
Rp 1 2 38009.6
Cp 1 2 1.58313p
Rs 1 N3 0.778
L1 N3 2 32.8875u
.ends 3521_7447732133_33u
*******
.subckt 3521_7447732147_47u 1 2
Rp 1 2 54947
Cp 1 2 1.44137p
Rs 1 N3 1.11
L1 N3 2 46.3023u
.ends 3521_7447732147_47u
*******
.subckt 3521_7447732168_68u 1 2
Rp 1 2 70658.8
Cp 1 2 1.52038p
Rs 1 N3 1.57
L1 N3 2 68.2576u
.ends 3521_7447732168_68u
*******
.subckt 3521_7447732210_100u 1 2
Rp 1 2 70653.3
Cp 1 2 1.34758p
Rs 1 N3 2.42
L1 N3 2 98.6471u
.ends 3521_7447732210_100u
*******
.subckt 4532_7447730_1u 1 2
Rp 1 2 4880.83
Cp 1 2 1.61196p
Rs 1 N3 0.014
L1 N3 2 1.10831u
.ends 4532_7447730_1u
*******
.subckt 4532_744773014_1.4u 1 2
Rp 1 2 6331
Cp 1 2 1.87163p
Rs 1 N3 0.022
L1 N3 2 1.3674u
.ends 4532_744773014_1.4u
*******
.subckt 4532_744773018_1.8u 1 2
Rp 1 2 5718.01
Cp 1 2 1.5886p
Rs 1 N3 0.028
L1 N3 2 1.69601u
.ends 4532_744773018_1.8u
*******
.subckt 4532_744773022_2.2u 1 2
Rp 1 2 7656.38
Cp 1 2 1.87946p
Rs 1 N3 0.034
L1 N3 2 1.83203u
.ends 4532_744773022_2.2u
*******
.subckt 4532_744773027_2.7u 1 2
Rp 1 2 8280
Cp 1 2 2.024p
Rs 1 N3 0.039
L1 N3 2 2.42u
.ends 4532_744773027_2.7u
*******
.subckt 4532_744773033_3.3u 1 2
Rp 1 2 9805.28
Cp 1 2 1.94215p
Rs 1 N3 0.041
L1 N3 2 3.01118u
.ends 4532_744773033_3.3u
*******
.subckt 4532_744773039_3.9u 1 2
Rp 1 2 12651.4
Cp 1 2 1.85749p
Rs 1 N3 0.054
L1 N3 2 3.57262u
.ends 4532_744773039_3.9u
*******
.subckt 4532_744773047_4.7u 1 2
Rp 1 2 14070.5
Cp 1 2 2.24354p
Rs 1 N3 0.059
L1 N3 2 4.46073u
.ends 4532_744773047_4.7u
*******
.subckt 4532_744773056_5.6u 1 2
Rp 1 2 15942.2
Cp 1 2 2.01434p
Rs 1 N3 0.069
L1 N3 2 4.9683u
.ends 4532_744773056_5.6u
*******
.subckt 4532_744773068_6.8u 1 2
Rp 1 2 16137
Cp 1 2 2.32057p
Rs 1 N3 0.076
L1 N3 2 6.30762u
.ends 4532_744773068_6.8u
*******
.subckt 4532_744773082_8.2u 1 2
Rp 1 2 21076
Cp 1 2 2.42612p
Rs 1 N3 0.116
L1 N3 2 6.97245u
.ends 4532_744773082_8.2u
*******
.subckt 4532_74477310_10u 1 2
Rp 1 2 25043
Cp 1 2 2.129p
Rs 1 N3 0.118
L1 N3 2 8.758u
.ends 4532_74477310_10u
*******
.subckt 4532_744773112_12u 1 2
Rp 1 2 22500
Cp 1 2 2.44125p
Rs 1 N3 0.156
L1 N3 2 10.0971u
.ends 4532_744773112_12u
*******
.subckt 4532_744773115_15u 1 2
Rp 1 2 26187.1
Cp 1 2 2.87282p
Rs 1 N3 0.204
L1 N3 2 12.9398u
.ends 4532_744773115_15u
*******
.subckt 4532_744773118_18u 1 2
Rp 1 2 25720.5
Cp 1 2 3.02273p
Rs 1 N3 0.225
L1 N3 2 15.7167u
.ends 4532_744773118_18u
*******
.subckt 4532_744773122_22u 1 2
Rp 1 2 32533.4
Cp 1 2 2.65739p
Rs 1 N3 0.261
L1 N3 2 20.4598u
.ends 4532_744773122_22u
*******
.subckt 4532_744773127_27u 1 2
Rp 1 2 31728.6
Cp 1 2 2.72665p
Rs 1 N3 0.328
L1 N3 2 23.0444u
.ends 4532_744773127_27u
*******
.subckt 4532_744773133_33u 1 2
Rp 1 2 38282.1
Cp 1 2 2.63833p
Rs 1 N3 0.37
L1 N3 2 30.5834u
.ends 4532_744773133_33u
*******
.subckt 4532_744773139_39u 1 2
Rp 1 2 45363.4
Cp 1 2 2.7039p
Rs 1 N3 0.418
L1 N3 2 33.8623u
.ends 4532_744773139_39u
*******
.subckt 4532_744773147_47u 1 2
Rp 1 2 50198.5
Cp 1 2 3.26658p
Rs 1 N3 0.523
L1 N3 2 42.2707u
.ends 4532_744773147_47u
*******
.subckt 4532_744773156_56u 1 2
Rp 1 2 48967.7
Cp 1 2 3.09083p
Rs 1 N3 0.714
L1 N3 2 50.3138u
.ends 4532_744773156_56u
*******
.subckt 4532_744773168_68u 1 2
Rp 1 2 51496.7
Cp 1 2 3.27287p
Rs 1 N3 0.754
L1 N3 2 61.7056u
.ends 4532_744773168_68u
*******
.subckt 5848_744774022_2.2u 1 2
Rp 1 2 10888.5
Cp 1 2 3.61582p
Rs 1 N3 0.026
L1 N3 2 2.10041u
.ends 5848_744774022_2.2u
*******
.subckt 5848_744774027_2.7u 1 2
Rp 1 2 12291.3
Cp 1 2 3.87196p
Rs 1 N3 0.032
L1 N3 2 2.58469u
.ends 5848_744774027_2.7u
*******
.subckt 5848_744774033_3.3u 1 2
Rp 1 2 13785.4
Cp 1 2 4.50638p
Rs 1 N3 0.042
L1 N3 2 3.24812u
.ends 5848_744774033_3.3u
*******
.subckt 5848_744774047_4.7u 1 2
Rp 1 2 15411.8
Cp 1 2 4.76921p
Rs 1 N3 0.056
L1 N3 2 4.55482u
.ends 5848_744774047_4.7u
*******
.subckt 5848_744774068_6.8u 1 2
Rp 1 2 10172.6
Cp 1 2 5.07654p
Rs 1 N3 0.071
L1 N3 2 5.557u
.ends 5848_744774068_6.8u
*******
.subckt 5848_74477410_10u 1 2
Rp 1 2 16845.4
Cp 1 2 3.5543p
Rs 1 N3 0.055
L1 N3 2 9.17261u
.ends 5848_74477410_10u
*******
.subckt 5848_744774112_12u 1 2
Rp 1 2 18628.3
Cp 1 2 3.56025p
Rs 1 N3 0.065
L1 N3 2 10.4413u
.ends 5848_744774112_12u
*******
.subckt 5848_744774115_15u 1 2
Rp 1 2 21936.1
Cp 1 2 3.5325p
Rs 1 N3 0.089
L1 N3 2 13.4486u
.ends 5848_744774115_15u
*******
.subckt 5848_744774118_18u 1 2
Rp 1 2 27343.1
Cp 1 2 3.30355p
Rs 1 N3 0.104
L1 N3 2 16.4579u
.ends 5848_744774118_18u
*******
.subckt 5848_744774122_22u 1 2
Rp 1 2 24141.8
Cp 1 2 4.55716p
Rs 1 N3 0.109
L1 N3 2 20.0916u
.ends 5848_744774122_22u
*******
.subckt 5848_744774127_27u 1 2
Rp 1 2 39123.2
Cp 1 2 3.67332p
Rs 1 N3 0.133
L1 N3 2 24.9258u
.ends 5848_744774127_27u
*******
.subckt 5848_744774133_33u 1 2
Rp 1 2 38362.7
Cp 1 2 3.8147p
Rs 1 N3 0.15
L1 N3 2 31.7456u
.ends 5848_744774133_33u
*******
.subckt 5848_744774139_39u 1 2
Rp 1 2 41548.7
Cp 1 2 4.21705p
Rs 1 N3 0.215
L1 N3 2 36.8769u
.ends 5848_744774139_39u
*******
.subckt 5848_744774147_47u 1 2
Rp 1 2 44914.9
Cp 1 2 4.11677p
Rs 1 N3 0.26
L1 N3 2 42.8647u
.ends 5848_744774147_47u
*******
.subckt 5848_744774156_56u 1 2
Rp 1 2 49454.2
Cp 1 2 3.74073p
Rs 1 N3 0.298
L1 N3 2 53.9881u
.ends 5848_744774156_56u
*******
.subckt 5848_744774168_68u 1 2
Rp 1 2 49648.6
Cp 1 2 4.09782p
Rs 1 N3 0.313
L1 N3 2 77.3193u
.ends 5848_744774168_68u
*******
.subckt 5848_744774182_82u 1 2
Rp 1 2 77062.4
Cp 1 2 5.03401p
Rs 1 N3 0.475
L1 N3 2 77.572u
.ends 5848_744774182_82u
*******
.subckt 5848_74477420_100u 1 2
Rp 1 2 105845
Cp 1 2 4.43558p
Rs 1 N3 0.51
L1 N3 2 101.412u
.ends 5848_74477420_100u
*******
.subckt 5848_744774212_120u 1 2
Rp 1 2 112862
Cp 1 2 4.70932p
Rs 1 N3 0.66
L1 N3 2 108.911u
.ends 5848_744774212_120u
*******
.subckt 5848_744774215_150u 1 2
Rp 1 2 104844
Cp 1 2 3.97899p
Rs 1 N3 0.72
L1 N3 2 145.173u
.ends 5848_744774215_150u
*******
.subckt 5848_744774218_180u 1 2
Rp 1 2 87257.2
Cp 1 2 4.05221p
Rs 1 N3 0.85
L1 N3 2 161.756u
.ends 5848_744774218_180u
*******
.subckt 5848_744774222_220u 1 2
Rp 1 2 128829
Cp 1 2 4.61883p
Rs 1 N3 0.945
L1 N3 2 214.017u
.ends 5848_744774222_220u
*******
.subckt 7850_74477510_10u 1 2
Rp 1 2 16845.4
Cp 1 2 3.5543p
Rs 1 N3 0.04
L1 N3 2 9.17261u
.ends 7850_74477510_10u
*******
.subckt 7850_744775112_12u 1 2
Rp 1 2 17218
Cp 1 2 3.50379p
Rs 1 N3 0.0417
L1 N3 2 10.6096u
.ends 7850_744775112_12u
*******
.subckt 7850_744775115_15u 1 2
Rp 1 2 19412.3
Cp 1 2 3.76089p
Rs 1 N3 0.0439
L1 N3 2 14.4566u
.ends 7850_744775115_15u
*******
.subckt 7850_744775118_18u 1 2
Rp 1 2 22336.2
Cp 1 2 3.85849p
Rs 1 N3 0.0526
L1 N3 2 16.2847u
.ends 7850_744775118_18u
*******
.subckt 7850_744775122_22u 1 2
Rp 1 2 28448.8
Cp 1 2 4.00292p
Rs 1 N3 0.0654
L1 N3 2 20.1575u
.ends 7850_744775122_22u
*******
.subckt 7850_744775127_27u 1 2
Rp 1 2 26510.9
Cp 1 2 4.51601p
Rs 1 N3 0.0738
L1 N3 2 23.2033u
.ends 7850_744775127_27u
*******
.subckt 7850_744775133_33u 1 2
Rp 1 2 31791.7
Cp 1 2 4.19314p
Rs 1 N3 0.0878
L1 N3 2 28.8805u
.ends 7850_744775133_33u
*******
.subckt 7850_744775139_39u 1 2
Rp 1 2 34494.3
Cp 1 2 4.36184p
Rs 1 N3 0.116
L1 N3 2 35.6528u
.ends 7850_744775139_39u
*******
.subckt 7850_744775147_47u 1 2
Rp 1 2 38758.8
Cp 1 2 4.21664p
Rs 1 N3 0.1343
L1 N3 2 41.8495u
.ends 7850_744775147_47u
*******
.subckt 7850_744775156_56u 1 2
Rp 1 2 37459
Cp 1 2 4.75249p
Rs 1 N3 0.189
L1 N3 2 50.868u
.ends 7850_744775156_56u
*******
.subckt 7850_744775168_68u 1 2
Rp 1 2 48833.6
Cp 1 2 4.29842p
Rs 1 N3 0.218
L1 N3 2 61.9118u
.ends 7850_744775168_68u
*******
.subckt 7850_744775182_82u 1 2
Rp 1 2 67151.8
Cp 1 2 4.56393p
Rs 1 N3 0.208
L1 N3 2 74.5188u
.ends 7850_744775182_82u
*******
.subckt 7850_74477520_100u 1 2
Rp 1 2 69056
Cp 1 2 4.517p
Rs 1 N3 0.2482
L1 N3 2 86.16u
.ends 7850_74477520_100u
*******
.subckt 7850_744775210_120u 1 2
Rp 1 2 87374.8
Cp 1 2 4.50664p
Rs 1 N3 0.308
L1 N3 2 113.809u
.ends 7850_744775210_120u
*******
.subckt 7850_744775215_150u 1 2
Rp 1 2 98917.4
Cp 1 2 4.80446p
Rs 1 N3 0.4666
L1 N3 2 136.43u
.ends 7850_744775215_150u
*******
.subckt 7850_744775218_180u 1 2
Rp 1 2 121135
Cp 1 2 4.33894p
Rs 1 N3 0.5741
L1 N3 2 172.889u
.ends 7850_744775218_180u
*******
.subckt 7850_744775222_220u 1 2
Rp 1 2 128095
Cp 1 2 4.22794p
Rs 1 N3 0.614
L1 N3 2 205.051u
.ends 7850_744775222_220u
*******
.subckt 7850_744775227_270u 1 2
Rp 1 2 180595
Cp 1 2 4.23p
Rs 1 N3 0.699
L1 N3 2 263.1u
.ends 7850_744775227_270u
*******
.subckt 7850_744775233_330u 1 2
Rp 1 2 141948
Cp 1 2 4.202p
Rs 1 N3 0.81
L1 N3 2 304.71u
.ends 7850_744775233_330u
*******
.subckt 7850_744775239_390u 1 2
Rp 1 2 146340
Cp 1 2 4.28p
Rs 1 N3 1.151
L1 N3 2 355.32u
.ends 7850_744775239_390u
*******
.subckt 7850_744775247_470u 1 2
Rp 1 2 155321
Cp 1 2 4.5p
Rs 1 N3 1.37
L1 N3 2 422.5u
.ends 7850_744775247_470u
*******
.subckt 7850_74477530_1000u 1 2
Rp 1 2 180027
Cp 1 2 4.12p
Rs 1 N3 2.78
L1 N3 2 943.89u
.ends 7850_74477530_1000u
*******
